US08293768B2
Synthesis of ethyl 2-(3-butyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 5, making variations to replace benzyl bromide with 1-iodobutane to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 73% yield: 1H NMR (300 MHz, CDCl3) δ 4.08 (q, J=7.2 Hz, 2H), 3.99-3.85 (m, 2H), 3.47-3.33 (m, 2H), 3.11 (t, J=7.5 Hz, 2H), 2.38 (s, 3H), 1.41-1.22 (m, 7H), 0.74 (t, J=7.2 Hz, 3H); MS (ES+) m/z 312.3 (M+1).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-iodobutane | ICCCC | C4H9I
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-butyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 73% yield | C(CCC)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C14H21N3O3S
